US04025537
A mixture of 4.33 g (0.02 mole) ethyl 2-acetyl-2-nonenoate and 3.57 g (0.02 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 12 hours. After cooling, the succinimide was removed by filtration and the solution concentrated in vacuo. Distillation of the crude product gave 3.09 g (69%) of ethyl 2-methyl-5-pentyl-3-furoate, bp 115°-119° C. (1.3 mm).

reactant | ethyl 2-acetyl-2-nonenoate | 0.02 mole, 4.33 g | C(C)(=O)C(C(=O)OCC)=CCCCCCC | C13H22O3
reactant | N-bromosuccinimide | 0.02 mole, 3.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-methyl-5-pentyl-3-furoate | 3.09 g, 69% | CC=1OC(=CC1C(=O)OCC)CCCCC | C13H20O3
